US04404205
To a solution of 11.2 g. of 7-amino-3,4,5,6-tetrahydro-2H-azepine in 100 ml. ethanol 13.1 g. of ethyl 2-formyl-propionate are added at room temperature and the reaction mixture is stirred for 24 hours and boiled for 3 hours. Ethanol is then evaporated at reduced pressure and the residue is treated with a mixture of acetone and petroleum ether. The precipitated crystals are filtered. 6.6 g. (37%) of 3-methyl-2-oxo-2,6,7,8,9,10-hexahydro-pyrimido[1,2-a]azepine are obtained, melting at 202° C. after boiling in acetone.

reactant | 7-amino-3,4,5,6-tetrahydro-2H-azepine | NC=1CCCCCN1 | C6H12N2
reactant | ethyl 2-formyl-propionate | C(=O)C(C(=O)OCC)C | C6H10O3
solvent | ethanol | 13.1 g | C(C)O | C2H6O
product | 3-methyl-2-oxo-2,6,7,8,9,10-hexahydro-pyrimido[1,2-a]azepine | 37% | CC=1C(N=C2N(CCCCC2)C1)=O | C10H14N2O
